US09422281B2
N,N-Diisopropylethylamine (0.120 mL, 0.688 mmol) was added to a solution of (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.068 g, 0.229 mmol) and cyclopropanecarbonyl chloride (0.031 mL, 0.344 mmol) in 1,2-dichloroethane (2.0 mL), and the mixture stirred at 50° C. for 16 h. The reaction mixture was concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 50-100% ethyl acetate-hexane) to afford (S)-1-(4-(cyclopropanecarbonyl)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.060 g, 72%) as an off-white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.68-0.77 (m, 1 H), 0.83-1.02 (m, 5 H), 1.02-1.08 (m, 5 H), 1.87-2.04 (m, 1 H), 2.12 (s, 3 H), 3.33 (m, 1 H), 3.74 (tt, J=7.33, 3.81 Hz, 1 H), 4.61 (m, 1 H), 4.69-4.86 (m, 1 H), 7.37-7.57 (m, 2 H), 7.65 (s, 1 H), 7.85 (s, 1 H), 8.25 (s, 1 H). MS (ESI, pos. ion) m/z 365. [M+1]+.

reactant | N,N-Diisopropylethylamine | 0.688 mmol, 0.120 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.229 mmol, 0.068 g | C1(CC1)N1N=CC(=C1)C=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C17H20N4O
reactant | cyclopropanecarbonyl chloride | 0.344 mmol, 0.031 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | 1,2-dichloroethane | 2.0 mL | ClCCCl | C2H4Cl2
product | (S)-1-(4-(cyclopropanecarbonyl)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.060 g, 72% | C1(CC1)C(=O)N1C[C@@H](N(C2=CC=C(C=C12)C=1C=NN(C1)C1CC1)C(C)=O)C | C21H24N4O2
